US20010041725A1
4-(4-Pyridyl)butylamine (Reference Compound No. 3-1)
Lithium aluminum hydride (370 mg) is suspended in anhydrous ether (14 ml) under a nitrogen atmosphere and ice cooling, and a solution of 4-(4-pyridyl)butyronitrile (705 mg) in anhydrous ether (10 ml) is added dropwise to the suspension. The mixture is stirred at room temperature for 2.5 hours. Anhydrous sodium sulfate is added to the reaction mixture under ice cooling, and water (0.5 ml) is added drop by drop thereto. Then, tetrahydrofuran is added thereto, and insoluble matter is filtered out. The filtrate is concentrated under reduced pressure to give the titled compound (Reference compound No. 3-1, 827 mg).

reactant | Lithium aluminum hydride | 370 mg | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | 4-(4-pyridyl)butyronitrile | 705 mg | N1=CC=C(C=C1)CCCC#N | C9H10N2
reactant | sodium sulfate | S(=O)(=O)([O-])[O-].[Na+].[Na+]
reactant | water | 0.5 ml | O | H2O
solvent | ether | 14 ml | CCOCC | C4H10O
solvent | ether | 10 ml | CCOCC | C4H10O
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 4-(4-Pyridyl)butylamine | N1=CC=C(C=C1)CCCCN | C9H14N2
